// Point Netlist Generated on: Oct 23 19:06:07 2024
// Generated for: spectre
// Design Netlist Generated on: Oct 23 19:06:07 2024
// Design library name: fanout-tests
// Design cell name: fanout-question-3
// Design view name: schematic
simulator lang=spectre
include "ade_e.scs"
global 0 vdd!
parameters temperature=27
include "/home/tools/cadence/gpdk/gpdk045_v_6_0/gpdk045/../models/spectre/gpdk045.scs" section=mc

// Library name: fanout-tests
// Cell name: fanout-question-3
// View name: schematic
NM8 (out dut_out 0 0) g45n1svt w=(600n) l=45n nf=1 as=84f ad=84f ps=1.48u \
        pd=1.48u nrd=233.333m nrs=233.333m sa=140n sb=140n sd=160n \
        sca=91.32138 scb=0.07706 scc=0.01082 m=(25)
NM6 (dut_out dut_in 0 0) g45n1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f \
        ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(25)
NM4 (dut_in net1 0 0) g45n1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f \
        ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(5)
NM0 (net1 in 0 0) g45n1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f ps=520n \
        pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
PM6 (out dut_out vdd! vdd!) g45p1svt w=(1.2u) l=45n nf=1 as=168f ad=168f \
        ps=2.68u pd=2.68u nrd=116.667m nrs=116.667m sa=140n sb=140n \
        sd=160n sca=67.27135 scb=0.06276 scc=0.00805 m=(25)
PM4 (dut_out dut_in vdd! vdd!) g45p1svt w=(240n) l=45n nf=1 as=33.6f \
        ad=33.6f ps=760n pd=760n nrd=583.333m nrs=583.333m sa=140n sb=140n \
        sd=160n sca=151.92744 scb=0.10471 scc=0.01874 m=(25)
PM2 (dut_in net1 vdd! vdd!) g45p1svt w=(240n) l=45n nf=1 as=33.6f ad=33.6f \
        ps=760n pd=760n nrd=583.333m nrs=583.333m sa=140n sb=140n sd=160n \
        sca=151.92744 scb=0.10471 scc=0.01874 m=(5)
PM0 (net1 in vdd! vdd!) g45p1svt w=(240n) l=45n nf=1 as=33.6f ad=33.6f \
        ps=760n pd=760n nrd=583.333m nrs=583.333m sa=140n sb=140n sd=160n \
        sca=151.92744 scb=0.10471 scc=0.01874 m=(1)
include "./_graphical_stimuli.scs"
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=4n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save in dut_in dut_out out 
saveOptions options save=allpub
